US05220042
219 Milligrams (0.35 mM) of 1-[2,5-dimethoxy-3,6-bis(methoxymethoxy)-4-chlorophenyl]-5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]pentane was dissolved in 5 ml of a mixed solvent of ethanol-tetrahydrofuran (1:1), to this solution was added 0.5 ml of a mixed solvent of ethanol-tetrahydrofuran (1:1) containing 20% of hydrogen chloride under an atmosphere of argon gas at a room temperature, then the reaction mixture was stirred for 2 hours at 60° C. The solvent was removed under reduced pressure, to the residue was added 5 ml of benzene, and the mixture was again treated under reduced pressure to remove the hydrogen chloride. The residue obtained was dissolved in 20 ml of acetonitrile, further added 1.5 ml of acetonitrile solution of complex of Cu4Cl4O2 (CH3CN)3 (which was prepared by adding 1 g of cuprous chloride in 25 ml of acetonitrile under bubbling oxygen gas), and the reaction mixture was stirred for 1 hour under oxygen gas stream conditions. The solvent was removed under reduced pressure, the residue obtained was dissolved in 30 ml of ethyl acetate, then the organic layer was washed three times with 10 ml of water, then washed once with 10 ml of a saturated sodium chloride aqueous solution. The organic layer was dried over anhydrous magnesium sulfate, then concentrated under a reduced pressure. The residue obtained was treated by means of a silica gel thin layer chromatography (adsorbent: Silica gel 60 F254, E. Merck A. G.-thickness: 1 mm, developing solvent: 50% ethyl acetate-n-hexane) to obtain 107 mg of 2,5-dimethoxy-3-chloro-6-[5-(2,5-dimethoxy-1,4-benzoquinon-3-yl)pentyl]-1,4-benzoquinone. Orange powdery substance.

reactant | 1-[2,5-dimethoxy-3,6-bis(methoxymethoxy)-4-chlorophenyl]-5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]pentane | 0.35 mM | COC1=C(C(=C(C(=C1OCOC)Cl)OC)OCOC)CCCCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C29H43ClO12
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
solvent | ethanol tetrahydrofuran | C(C)O.O1CCCC1
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
product | 2,5-dimethoxy-3-chloro-6-[5-(2,5-dimethoxy-1,4-benzoquinon-3-yl)pentyl]-1,4-benzoquinone | 107 mg | COC=1C(C(=C(C(C1Cl)=O)OC)CCCCCC1=C(C(C=C(C1=O)OC)=O)OC)=O | C21H23ClO8
